US05141930
To a solution of 3.4 g of 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one in 100 ml of formic acid was added 2.9 ml of 30% hydrogen peroxide and the mixture was stirred for 3 hours at room temperature. Then, the mixture was poured into ca. 3% sodium hydrogensulfite solution and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and the solvent was distilled off to give 3.5 g of 4-(4-chlorobutyl)-2,3-dihydrothieno-[3,2-f]1,4-thiazepin-5(4H)-one 1,1-dioxide as a pale yellow oil.

reactant | 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one | 3.4 g | ClCCCCN1CCSC2=C(C1=O)C=CS2 | C11H14ClNOS2
reactant | hydrogen peroxide | 2.9 ml | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | formic acid | 100 ml | C(=O)O | CH2O2
product | 4-(4-chlorobutyl)-2,3-dihydrothieno-[3,2-f]1,4-thiazepin-5(4H)-one 1,1-dioxide | 3.5 g | ClCCCCN1CCS(C2=C(C1=O)C=CS2)(=O)=O | C11H14ClNO3S2
